US07001897B2
To a solution of N-(t-butoxycarbonyl)glycine (3.01 g, 17.2 mmol) in anhydrous methylene chloride (150 ml) were added 1-hydroxybenzotriazole (4.63 g, 34.3 mmol), WSC (6.60 g, 34.4 mmol) and 4-dimethylaminopyridine (210 mg, 1.72 mmol) in an ice bath. The mixture was stirred at room temperature under an atmosphere of nitrogen overnight. After checking the completion of the reaction, 28% aqueous ammonia solution was added thereto and resulting mixture was stirred for 15 minutes. After checking the completion of the reaction, the reaction mixture was partitioned between methylene chloride and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (10:1) as the eluant to afford (carbamoylmethyl)carbamic acid t-butyl ester (717.7 mg, yield 24%) as a colorless and transparent syrup.

reactant | N-(t-butoxycarbonyl)glycine | 17.2 mmol, 3.01 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-hydroxybenzotriazole | 34.3 mmol, 4.63 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | WSC | 34.4 mmol, 6.60 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | ammonia | N | H3N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.72 mmol, 210 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (carbamoylmethyl)carbamic acid t-butyl ester | 717.7 mg, yield 24% | C(C)(C)(C)OC(NCC(N)=O)=O | C7H14N2O3
